US06569879B2
Preparation of 2-[(5,7-dipropyl-3-trifluoromethyl-1,2-benzisoxazol-6-yl)oxy]-2-methylpropionamide:
To a suspension of NH4Cl (86 mg) in toluene (10 mL) at room temperature was added AlCl3 (2.0 M, 0.8 mL) dropwise. The reaction was stirred for 3 h. The resultant clear solution was transferred to a solution of methyl 2-[(5,7-dipropyl-3-trifluoromethyl-1,2-benzisoxazol-6-yl)oxy]-2-methylpropionate (200 mg) in toluene (5 mL). The reaction was stirred at 80° C. overnight, cooled to room temperature, and then partitioned between EtOAc and 1.0 N aqueous HCl solution. The organic phase was washed with water and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification by chromatography gave the desired product. 1H NMR (CDCl3) δ 1.00 (m, 6H), 1.51 (s, 6H), 1.65 (m, 2H), 1.75 (m, 2H), 2.70 (t, 2H), 2.94 (m, 2H), 5.72 (s, broad, 1H), 6.87 (s, broad, 1H), 7.43 (s, 1H).

reactant | NH4Cl | 86 mg | [NH4+].[Cl-]
reactant | AlCl3 | 2.0 M, 0.8 mL | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | methyl 2-[(5,7-dipropyl-3-trifluoromethyl-1,2-benzisoxazol-6-yl)oxy]-2-methylpropionate | 200 mg | C(CC)C=1C(=C(C2=C(C(=NO2)C(F)(F)F)C1)CCC)OC(C(=O)OC)(C)C | C19H24F3NO4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(5,7-dipropyl-3-trifluoromethyl-1,2-benzisoxazol-6-yl)oxy]-2-methylpropionamide | C(CC)C=1C(=C(C2=C(C(=NO2)C(F)(F)F)C1)CCC)OC(C(=O)N)(C)C | C18H23F3N2O3
